US06875765B2
5-Allyl-quinoline (3.12 g, 18.4 mmol) was dissolved in 40 mL methanol and 40 mL methylene chloride and cooled to −78° C. Ozone was bubbled in until a green solution was seen. Sodium borohydride (1.4 g, 36.8 mmol) was added. The reaction was warmed to room temperature and stirred for 2 hours. The reaction was quenched with water. A saturated solution of KHPO4 was added and the mixture extracted with methylene chloride. The organic extracts were dried with Na2SO4, filtered, and concentrated in vacuo. The crude product was chromatographed with ethyl acetate to yield 1.6 g (50%) of 2-quinolin-5-yl-ethanol as a yellow solid. MS (APCI) m/z 174.1 (M+1).

reactant | 5-Allyl-quinoline | 18.4 mmol, 3.12 g | C(C=C)C1=C2C=CC=NC2=CC=C1 | C12H11N
reactant | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
reactant | Sodium borohydride | 36.8 mmol, 1.4 g | [BH4-].[Na+]
reactant | methanol | 40 mL | CO | CH4O
product | 2-quinolin-5-yl-ethanol | 1.6 g, 50% | N1=CC=CC2=C(C=CC=C12)CCO | C11H11NO
